US09255090B2
To an ice-cooled solution of diethylzinc solution (1.0 M in hexanes) (8.25 mL, 8.25 mmol, 2.75 eq.) in DCM (15 mL), trifluoroacetic acid (0.6 mL, 7.80 mmol, 2.60 eq.) was added slowly (gas evolution). Upon addition completion, the mixture was stirred at 0° C. for 10 min. Methyleniodid (0.7 mL, 8.70 mmol, 2.90 eq.) was added dropwise and the mixture was stirred at 0° C. for 10 min. A solution of 4-bromo-2-chloro-1-vinyloxy-benzene (700 mg, 3.00 mmol, 1.00 eq.) in DCM (5 mL) was added dropwise. The reaction mixture was stirred at 0° C. for 30 min and further at r.t. for 1 hour, then quenched with 2N aq. HCl soln. (15 mL) and water (5 mL). The layers were separated. The aq. layer was extracted with DCM (1×25 mL). The comb. org. phases were dried over MgSO4 and concentrated in vacuo. The residue was purified by flashmaster (column: 100 g, flow: 45 mL/min, 30 fractions of 45 mL, Heptane to Heptane+5% AcOEt) to yield 4-bromo-2-chloro-1-cyclopropoxy-benzene as a colorless oil.

reactant | diethylzinc | 8.25 mmol, 1.0 M, 8.25 mL, 2.75 eq. | C(C)[Zn]CC
reactant | trifluoroacetic acid | 7.80 mmol, 0.6 mL, 2.60 eq. | FC(C(=O)O)(F)F | C2HF3O2
reactant | Methyleniodid | 8.70 mmol, 0.7 mL, 2.90 eq. | C(I)I | CH2I2
reactant | 4-bromo-2-chloro-1-vinyloxy-benzene | 3.00 mmol, 700 mg, 1.00 eq. | BrC1=CC(=C(C=C1)OC=C)Cl | C8H6BrClO
solvent | DCM | 15 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
product | 4-bromo-2-chloro-1-cyclopropoxy-benzene | BrC1=CC(=C(C=C1)OC1CC1)Cl | C9H8BrClO
